US04689427
Preparation of (S)-4-(2',5'-dimethoxy-3',4',6'-trimethylphenyl)-2-methyl-1,2-butanediol
1.10 g of (2R,3R)-4-(2',5'-dimethoxy-3',4',6'-trimethylphenyl)-2,3-epoxy-2-methylbutanol are dissolved in 2 ml of pyridine. 0.5 ml of trimethylchlorosilane is then added and the mixture is left to stand at room temperature for 1 hour. Thereupon, sodium bicarbonate solution is added and the mixture is extracted with toluene. The combined organic phases are dried over anhydrous sodium sulphate and concentrated. The thus-obtained (2R,3R)-4-(2',5'-dimethoxy-3',4',6'-trimethylphenyl)-2,3-epoxy-2-methyl-1-(trimethylsilyloxy)-butane is dissolved in 10 ml of diethyl ether, treated with 40 mg of lithium aluminum hydride and stirred at room temperature for 16 hours. Ammonium hydrogen difluoride solution is then added and the mixture is subsequently extracted with ethyl acetate. The combined organic phases are dried over anhydrous sodium sulphate and concentrated, and the residue is dried further in a higher vacuum. There are thus obtained 804 mg (73%) of (S)-4-(2',5'-dimethoxy-3',4',6'-trimethylphenyl)-2-methyl-1,2-butanediol, m.p. 86°-87° C., [α]D20 +2.53° (c=5.3% in CHCl3).

reactant | (2R,3R)-4-(2',5'-dimethoxy-3',4',6'-trimethylphenyl)-2,3-epoxy-2-methylbutanol | 1.10 g | COC1=C(C(=C(C(=C1C)C)OC)C)C[C@@H]1[C@](CO)(C)O1 | C16H24O4
reactant | trimethylchlorosilane | 0.5 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | (S)-4-(2',5'-dimethoxy-3',4',6'-trimethylphenyl)-2-methyl-1,2-butanediol | COC1=C(C(=C(C(=C1C)C)OC)C)CC[C@@](CO)(O)C | C16H26O4
